US08067613B2
(R)-tert-butyl 2-(5-methoxycarbonylthiophen-2-yl)pyrrolidine-1-carboxylate
To a solution of N-Boc-pyrrolidine (3 mL) and (−)-sparteine (3.9 mL) in tert-butyl methyl ether (36 mL) at −78° C. was added 1.4M sec-butyl lithium in cyclohexane (12.21 mL). The solution was stirred for 3 hours and 1M zinc chloride in ether (10.2 mL) was added. The mixture was stirred for 30 minutes and warmed to ambient temperature for 30 minutes. Methyl 5-bromothiophene-2-carboxylate (3.15 g), tri-tert-butylphosphine tetrafluoroborate (249 mg) and palladium(II) acetate (153 mg) were added, and the mixture was stirred at ambient temperature overnight, treated with concentrated ammonium hydroxide (1 mL) and stirred for 30 minutes, and filtered through diatomaceous earth (Celite®). The filtrate was washed with 0.5M hydrochloric acid solution and water and concentrated. The concentrate was flash chromatographed on silica gel with ethyl acetate/hexane.

reactant | N-Boc-pyrrolidine | 3 mL | C(=O)(OC(C)(C)C)N1CCCC1 | C9H17NO2
reactant | (−)-sparteine | 3.9 mL | C1CCN2C[C@@H]3C[C@H]([C@H]2C1)CN4[C@H]3CCCC4 | C15H26N2
reactant | sec-butyl lithium | 1.4M | C(C)(CC)[Li]
reactant | Methyl 5-bromothiophene-2-carboxylate | 3.15 g | BrC1=CC=C(S1)C(=O)OC | C6H5BrO2S
reactant | tri-tert-butylphosphine tetrafluoroborate | 249 mg | F[B-](F)(F)F.C(C)(C)(C)P(C(C)(C)C)C(C)(C)C
reactant | ammonium hydroxide | 1 mL | [OH-].[NH4+]
solvent | tert-butyl methyl ether | 36 mL | COC(C)(C)C | C5H12O
solvent | cyclohexane | 12.21 mL | C1CCCCC1 | C6H12
solvent | ether | 10.2 mL | CCOCC | C4H10O
catalyst | zinc chloride | 1M | [Cl-].[Zn+2].[Cl-]
catalyst | palladium(II) acetate | 153 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (R)-tert-butyl 2-(5-methoxycarbonylthiophen-2-yl)pyrrolidine-1-carboxylate | COC(=O)C1=CC=C(S1)[C@@H]1N(CCC1)C(=O)OC(C)(C)C | C15H21NO4S
